US07919506B2
1-{4-[(2-{[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-methoxy-methyl]-piperidin-1-yl}-ethanone
To a solution of N-(2-(methoxy piperidin-4-ylmethyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine (20.5 mg, 0.034 mmol) in methylene chloride (0.5 mL) at room temperature was added pyridine (10 μL, 0.1 mmol) followed by acetyl chloride (5 μL, 0.07 mmol). The mixture was stirred at room temperature overnight. Solvent was removed in vacuo. The residue was purified by chromatography over 12+S Biotage silica column (eluted with 10-100% ethyl acetate in hexanes) to afford the title compound (14 mg, 64%). 1H NMR (400 MHz, CDCl3) δ ppm 1.17-1.34 (m, 3H) 1.69-1.78 (m, 1H) 1.87 (t, J=12.65 Hz, 1H) 2.04 (s, 1.5H) 2.06 (s, 1.5H) 2.27-2.41 (m, 1H) 2.82-2.93 (m, 1H) 3.04 (s, 3H) 3.72 (d, J=15.77 Hz, 0.5H) 3.81 (d, J=12.45 Hz, 0.5H) 4.18 (d, J=6.64 Hz, 1H) 4.21 (s, 3H) 4.54-4.65 (m, 1H) 4.65-4.73 (m, 3H) 4.87 (d, J=16.60 Hz, 1H) 7.37 (s, 1H) 7.50 (d, J=7.88 Hz, 1H) 7.59 (d, J=7.88 Hz, 1H) 7.64 (s, 2H) 7.78 (s, 1H). MS (ES+) Calc: 652.2, Found: 653.5 (M+1)

reactant | N-(2-(methoxy piperidin-4-ylmethyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine | 0.034 mmol, 20.5 mg | COC(C1=C(CN(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F)C1CCNCC1 | C26H27F9N6O
reactant | pyridine | 0.1 mmol, 10 μL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.07 mmol, 5 μL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 1-{4-[(2-{[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-methoxy-methyl]-piperidin-1-yl}-ethanone | 14 mg, 64% | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(C2CCN(CC2)C(C)=O)OC)C=C(C1)C(F)(F)F)(F)F | C28H29F9N6O2
